US08304446B2
(3S)—N-({3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-hydroxy-1H-indazol-1-yl)methyl]phenyl}methyl)-3-morpholinecarboxamide formate salt
To a solution of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-hexafluorophosphate (77 mg, 0.124 mmol) in anhydrous N,N-dimethylformamide (1 mL) was added at room temperature (S)-4-Boc-morpholine-3-carboxylic acid (26.2 mg, 0.113 mmol), followed by N,N-diisopropylethylamine 0.059 mL, 0.339 mmol) and finally a solution of N-(1-{[3-(aminomethyl)phenyl]methyl}-4-hydroxy-1H-indazol-3-yl)-5-chloro-2-thiophenesulfonamide (formate salt) (for a preparation see intermediate 15) ((56 mg, 0.113 mmol) in anhydrous N,N-dimethylformamide (2 mL) and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was partitioned between saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer was separated, washed with brine:water (1:1), passed through a hydrophobic frit and evaporated in-vacuo. The was treated with hydrogen chloride (4M solution in 1,4-dioxane) (1 mL) and then added methanol (˜4 mL) until the reaction was in solution. Reaction stirred at room temperature for 2 hours. The reaction mixture was evaporated in-vacuo and the residue was dissolved in MeOH/DMSO (1 mL) and purified by Mass Directed AutoPreparative HPLC (MDAP) on (Sunfire C18 column Method A) eluting with solvents A/B (A: 0.1% v/v solution of formic acid in water, B: 0.1% v/v solution of formic acid in acetonitrile) using a method B over 25 min. Appropriate fractions were combined and evaporated in-vacuo to yield the title compound as a colourless oil (13 mg, 19%). LCMS (System B) RT=1.63 min, ES+ve m/z 562/564 (M+H)+.

reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.124 mmol, 77 mg | N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | (S)-4-Boc-morpholine-3-carboxylic acid | 0.113 mmol, 26.2 mg | C(=O)(OC(C)(C)C)N1[C@@H](COCC1)C(=O)O | C10H17NO5
reactant | N,N-diisopropylethylamine | 0.339 mmol, 0.059 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(1-{[3-(aminomethyl)phenyl]methyl}-4-hydroxy-1H-indazol-3-yl)-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)O)NS(=O)(=O)C=1SC(=CC1)Cl | C19H17ClN4O3S2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (3S)—N-({3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-hydroxy-1H-indazol-1-yl)methyl]phenyl}methyl)-3-morpholinecarboxamide formate salt | 13 mg, 19% | C(=O)O.ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)O)CC=1C=C(C=CC1)CNC(=O)[C@H]1NCCOC1 | InChI=1S/C24H24ClN5O5S2.CH2O2/c25-20-7-8-21(36-20)37(33,34)29-23-22-18(5-2-6-19(22)31)30(28-23)13-16-4-1-3-15(11-16)12-27-24(32)17-14-35-10-9-26-17;2-1-3/h1-8,11,17,26,31H,9-10,12-14H2,(H,27,32)(H,28,29);1H,(H,2,3)/t17-;/m0./s1
